US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-quinolin-8-yl-amine (Compound B16)
Was prepared according to Method B from 2,4-dichloroquinazoline, 8-aminoquinoline and 3,5-dimethylpyrazole. Mp. 183.5-184.8° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 8-aminoquinoline | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-quinolin-8-yl-amine | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC=1C=CC=C2C=CC=NC12 | C22H18N6
